US06037367
42(b) (+/-)-1-Phenyl-3-(3-cyclopentyloxy-4-methoxyphenyl)-5-oxo-6-hydroxyhexyne
A solution of (+/-)-1-phenyl-3-(3-cyclopentyloxy-4-methoxyphenyl)-5-oxo-6-acetoxyhexyne (130 mg, 0.34 mmol) in MeOH (2 ml) was treated with NaOH (0.1 ml of a 2.5N solution), and the mixture was stirred at 23° for 3.5 hr. The reaction was diluted with H2O, and extracted with Et2O. The extracts were washed with H2O, dried, and the solvent removed. Purification by flash chromatography (silica gel, 50% Et2O in CH2Cl2) gave the titled compound as an oil (32 mg, 28%). 1H NMR (400 MHz, CDCl3) δ 7.42 (m, 2 H), 7.32 (m, 3 H), 6.98 (m, 2 H), 6.86 (d, 1 H), 4.80 (m, 1 H), 4.38 (t, 1 H), 4.32 (d, 1 H), 4.14 (d, 1 H), 3.84 (s, 3 H), 3.00 (d of d, 1 H), 2.86 (d of d, 1 H), 1.68-2.00 (m, 6 H), 1.62 (m, 2 H).

reactant | (+/-)-1-phenyl-3-(3-cyclopentyloxy-4-methoxyphenyl)-5-oxo-6-acetoxyhexyne | 0.34 mmol, 130 mg | C1(=CC=CC=C1)C#CC(CC(COC(C)=O)=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C26H28O5
reactant | NaOH | [OH-].[Na+]
solvent | MeOH | 2 ml | CO | CH4O
solvent | H2O | O | H2O
product | (+/-)-1-Phenyl-3-(3-cyclopentyloxy-4-methoxyphenyl)-5-oxo-6-hydroxyhexyne | 32 mg, 28% | C1(=CC=CC=C1)C#CC(CC(CO)=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C24H26O4
